US04155913
9.1 g (0.03 mol) of 1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepine-2-thione are refluxed with 500 ml of absolute butanol and 9 g of acetic hydrazide, a stream of nitrogen being conducted through the solution. After 2 hours, the solvent is evaporated and the residue taken up in 300 ml of methylene chloride and washed three times with 100 ml of water each time. After drying and evaporation of the organic phase and trituration with ethyl acetate, there is obtained crystalline 9-methyl-4-(o-nitrophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine which, after recrystallization from ethanol and treatment with active carbon, melts at 260°-262° C.

reactant | 1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 0.03 mol, 9.1 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1C2=C(NC(CN1)=S)SC=C2 | C13H9N3O2S2
reactant | acetic hydrazide | 9 g | C(C)(=O)NN | C2H6N2O
solvent | butanol | 500 ml | C(CCC)O | C4H10O
product | 9-methyl-4-(o-nitrophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)[N+](=O)[O-])C=CS1 | C15H11N5O2S
